US05814653
6-(4-methoxybenzoyl)amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole
Beginning with 10.6 mg (0.046 mMol) 6-amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole and 8.8 μL (0.063 mMol) 4-methoxybenzoyl chloride, 6.9 mg (41%) of the title compound were recovered as a light brown foam.

reactant | 6-amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole | 0.046 mMol, 10.6 mg | NC=1C=C2C=3CC(CCC3NC2=CC1)N(C)C | C14H19N3
reactant | 4-methoxybenzoyl chloride | 0.063 mMol, 8.8 μL | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
product | 6-(4-methoxybenzoyl)amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole | 6.9 mg, 41% | COC1=CC=C(C(=O)NC=2C=C3C=4CC(CCC4NC3=CC2)N(C)C)C=C1 | C22H25N3O2
